US04159338
By the procedure described in the second paragraph of Example 2F, 45.0 g (0.16 mole) of 2-(3,4-dichlorophenyl)-2-hydroxy-1-(2-thienyl)ethanone was reacted with ammonium thiocyanate in 1-propanol at reflux to afford 32.6 g of 4-(3,4-dichlorophenyl)-5-(2-thienyl)-1H-2-imidazolethiol m.p. 263°-5°. (recrystallized from 1-butanol).

reactant | 2-(3,4-dichlorophenyl)-2-hydroxy-1-(2-thienyl)ethanone | 0.16 mole, 45.0 g | ClC=1C=C(C=CC1Cl)C(C(=O)C=1SC=CC1)O | C12H8Cl2O2S
reactant | ammonium thiocyanate | [S-]C#N.[NH4+]
solvent | 1-propanol | C(CC)O | C3H8O
product | 4-(3,4-dichlorophenyl)-5-(2-thienyl)-1H-2-imidazolethiol | 32.6 g | ClC=1C=C(C=CC1Cl)C=1N=C(NC1C=1SC=CC1)S | C13H8Cl2N2S2
